US07592358B2
33.1a. 1-[2-(4-bromo-2-methoxyphenoxy)ethyl]pyrrolidine
The product was obtained analogously to Example 24.1a starting from 4-bromo-2-methoxyphenol and 1-(2-chloroethyl)pyrrolidine hydrochloride. Yield: 3.96 g (45% of theoretical); C13H19BrNO2 (M=300.192); calc.: molpeak (M+H)+: 300/302 (Br); found: molpeak (M+H)+: 300/302 (Br); HPLC-MS: 4.67 minutes (method A).

reactant | 4-bromo-2-methoxyphenol | BrC1=CC(=C(C=C1)O)OC | C7H7BrO2
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | Cl.ClCCN1CCCC1
product | 1-[2-(4-bromo-2-methoxyphenoxy)ethyl]pyrrolidine | BrC1=CC(=C(OCCN2CCCC2)C=C1)OC | C13H18BrNO2
